US06878728B1
tert-butyl (1S)-2-{4-[(2-methyl-1,3-thiazol-4-yl)methoxy]phenyl}-1-[(2S)-oxiranyl]ethylcarbamate
0.6 g (3.26 mmol) 4-Chloromethyl-2-methyl-thiazole hydrochloride was added to a stirred solution of 0.76 g (2.71 mmol) tert-butyl (1S)-2-(4-hydroxyphenyl)-1-[(2S)-oxiranyl]ethylcarbamate in 15 ml N,N-dimethylformamide. 3.25 g (10 mmol) cesium carbonate and 550 mg (3.66 mmol) sodium iodide was added, and the mixture was stirred at 20° C. for 24 hours. 200 ml ethyl acetate was added, and the mixture was filtered. The filtrate was extracted with water (5×50 ml), and the organic phase was dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified on silicagel column using hexane-ethyl acetate (1:1) as solvent to yield 820 mg (Y=78%) title compound. 1H-NMR (CDCl3): δ 1.36 (9H,s), 2.71 (3H,s), 2.75-2.95 (4H,m), 3.61 (1H,s(br)), 4.39 (1H,s(br)), 5.11 (2H,s), 6.91 (2H,d), 7.11 (2H,d), 7.12 (1H,s).

reactant | 4-Chloromethyl-2-methyl-thiazole hydrochloride | 3.26 mmol, 0.6 g | Cl.ClCC=1N=C(SC1)C
reactant | tert-butyl (1S)-2-(4-hydroxyphenyl)-1-[(2S)-oxiranyl]ethylcarbamate | 2.71 mmol, 0.76 g | OC1=CC=C(C=C1)C[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C15H21NO4
reactant | cesium carbonate | 10 mmol, 3.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 3.66 mmol, 550 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl (1S)-2-{4-[(2-methyl-1,3-thiazol-4-yl)methoxy]phenyl}-1-[(2S)-oxiranyl]ethylcarbamate | CC=1SC=C(N1)COC1=CC=C(C=C1)C[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C20H26N2O4S
